US08227458B2
trans-4-(Naphthalen-2-yloxy)-cyclohexanecarboxylic acid hydrazide
A mixture of trans-4-(naphthalen-2-yloxy)-cyclohexanecarboxylic acid methyl ester (0.130 g, 0.457 mmol) and hydrazine hydrate (0.02 ml, 0.45 mmol) in methanol (0.5 ml) was heated at 80° C. for 16 h. After cooling to room temperature the reaction mixture was partitioned between ethyl acetate (50 ml) and 1 M aqueous sodium hydroxide solution (50 ml). The organic layer was separated, dried over anhydrous sodium sulfate and concentrated in vacuo to give the crude title compound (0.112 g, 86%) as yellow solid, which was used in the next step without further purification. MS m/e: 285 (M+H+)

reactant | trans-4-(naphthalen-2-yloxy)-cyclohexanecarboxylic acid methyl ester | 0.457 mmol, 0.130 g | COC(=O)[C@@H]1CC[C@H](CC1)OC1=CC2=CC=CC=C2C=C1 | C18H20O3
reactant | hydrazine hydrate | 0.45 mmol, 0.02 ml | O.NN
solvent | methanol | 0.5 ml | CO | CH4O
product | trans-4-(Naphthalen-2-yloxy)-cyclohexanecarboxylic acid hydrazide | 0.112 g, 86% | C1=C(C=CC2=CC=CC=C12)O[C@@H]1CC[C@H](CC1)C(=O)NN | C17H20N2O2
